US07713974B2
[3-(3-Chloro-5-cyano-phenoxy)-4-ethyl-2-fluoro-phenyl]-acetic acid ethyl ester (R-32) was prepared from R-23 using the procedure described for R-31 except diethylzinc was used in place of dimethylzinc.

reactant | R-23 | C(F)(F)F | CHF3
reactant | [3-(3-Chloro-5-cyano-phenoxy)-2-fluoro-4-methyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C(=C(C=C1)C)OC1=CC(=CC(=C1)C#N)Cl)F)=O | C18H15ClFNO3
reactant | diethylzinc | C(C)[Zn]CC
product | [3-(3-Chloro-5-cyano-phenoxy)-4-ethyl-2-fluoro-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=C(C(=C(C=C1)CC)OC1=CC(=CC(=C1)C#N)Cl)F)=O | C19H17ClFNO3
